US03953604
1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-t-butylphenoxypropane (10.7 g), benzene (100 ml), ethanol (5 ml) and sulphuric acid (10 drops) were heated under reflux in a Dean and Stark separator until no more water passed over (about 6 hours). After cooling, the solution was washed with saturated sodium bicarbonate solution, and then water. The solvent was removed under reduced pressure to give a very viscous brown oil, from which solid material separated on standing. This solid was filtered off and washed several times with ether to give 1-(2-carbethoxy-chromon-5-yloxy)-2-hydroxy-3-p-t-butylphenoxypropane, 6.1 g, as a cream solid. A portion recrystallized from aqueous ethanol afforded almost colorless flakes m.p. 99°-101.5°.

reactant | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-t-butylphenoxypropane | 10.7 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)C(C)(C)C)O | C23H24O7
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | ethanol | 5 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-(2-carbethoxy-chromon-5-yloxy)-2-hydroxy-3-p-t-butylphenoxypropane | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)C(C)(C)C)O | C25H28O7
